US05342610
Then, 2.921 g of maltitol and 476.0 mg of potassium hydroxide were dissolved in 20 ml of dimethylsulfoxide, and the mixture was stirred under flow of nitrogen for 30 minutes. A solution obtained by dissolving 719 mg of the resultant 4-glycidyloxy benzophenone dissolved in 1 ml of dimethylsulfoxide was dripped to it. Furthermore, heating and agitation was continued for 1 hour under flow of nitrogen, and the reaction system was cooled to the room temperature and neutralize with chloric acid. The reaction system was fractionated according to the column chromatography using the hyperporous polymer (Hiporous resin supplied from Mitsubishi Kasei Kogyo Kabushiki Kaisha) at first as a developing solvent with purified water, and then a mixture of ethyl alcohol and purified water with the mixing ratio of 1:1, and effluent fraction in which the mixing ratio of ethyl alcohol and purified water was 1:1 was condensed to obtained 500 mg of 1-(4-benzoylphenyl) glycerol maltitolether (Yield: 30%).

reactant | maltitol | 2.921 g | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@H]([C@@H](CO)O)[C@@H]([C@H](CO)O)O)O)O)O)O | C12H24O11
reactant | potassium hydroxide | 476.0 mg | [OH-].[K+]
reactant | 4-glycidyloxy benzophenone | 719 mg | C(C1CO1)OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C16H14O3
reactant | chloric acid | Cl(=O)(=O)O | ClHO3
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
solvent | ethyl alcohol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-(4-benzoylphenyl) glycerol | 500 mg, Yield: 30% | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)OCC(O)CO | C16H16O4
